Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
betadine  / Codeine
 
Attending: ___.
 
Chief Complaint:
Swelling
 
Major Surgical or Invasive Procedure:
None
 
Brief Hospital Course:
Patient came with concern for infection. CXR, CT leg, UA, labs, 
and physical exam not consistent with infection. No DVT based on 
duplex. No ankle septic arthritis based on exam. 

Swelling likely from dependent positioning and excessive 
activity. 

Pain meds refilled, education provided, patient D/c'd to home.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Leg swelling

 
Discharge Condition:
Stable

 
Discharge Instructions:
Leave wound open to air. Elevate as much as possible. Ok to 
shower, no tub soaks. PWB. Keep knee as straight as possible in 
brace; no bending. Continue Lovenox as prescribed.
 
Followup Instructions:
___